US07351339B2
4.40 g (40.5 mmol) of chlorotrimethylsilane were added dropwise while stirring at 0° C. to a solution of 3.00 g (40.5 mmol) of 1-butanol and 11.1 g (135 mmol) of 1-methylimidazole. The reaction mixture was stirred at from 0 to 5° C. for a further 15 min and at 20° C. for 15 min to form a liquid biphasic mixture. Removal of the upper phase gave 5.30 g (theory: 5.93 g) of 1-trimethylsilyloxybutane as a colorless oil having a purity of 90% (GC).

reactant | chlorotrimethylsilane | 40.5 mmol, 4.40 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-butanol | 40.5 mmol, 3.00 g | C(CCC)O | C4H10O
reactant | 1-methylimidazole | 135 mmol, 11.1 g | CN1C=NC=C1 | C4H6N2
product | 1-trimethylsilyloxybutane | 5.30 g | C[Si](OCCCC)(C)C | C7H18OSi
